US05684020
1-[2-(Benzocyclobutan-1-yl)ethyl]-4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine
2.21 g (8.2 mmol) of 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine (Preparation 1), 1.72 g (8.2 mmol) of 2-(benzocyclobutan-1-yl)-1-bromoethane and 3.48 g (32.8 mmol) of sodium carbonate in 33 ml of methyl isobutyl ketone are heated at reflux for 14 h. The whole is evaporated to dryness, taken up in 200 ml of ethyl acetate and 100 ml of N sodium hydroxide solution and decanted, and the organic phase is washed with 100 ml of a saturated sodium chloride solution. After drying over MgSO4 and evaporation, the residue obtained is chromatographed on silica (eluant: CH2Cl2 /CH3OH: 98/2) to yield 2.1 g of the expected product. By the addition of a 2% fumaric acid solution in ethanol, 1.7 g of the fumarate of the title compound is obtained. M.p. 193°-194° C.

reactant | 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | 8.2 mmol, 2.21 g | COC=1C(=CC2=C(CCO2)C1)N1CCNCC1 | C13H18N2O2
reactant | 2-(benzocyclobutan-1-yl)-1-bromoethane | 8.2 mmol, 1.72 g | C1(CC2=C1C=CC=C2)CCBr | C10H11Br
reactant | sodium carbonate | 32.8 mmol, 3.48 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl isobutyl ketone | 33 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[2-(Benzocyclobutan-1-yl)ethyl]-4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | 2.1 g | C1(CC2=C1C=CC=C2)CCN2CCN(CC2)C2=CC1=C(CCO1)C=C2OC | C23H28N2O2
